US08138345B2
Preparation of 5-[(R)-2-{Benzyl-[2-(4-nitrophenyl)ethyl]amino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one
A stirred solution of 4-nitrobenzenesulfonic acid 2-(4-nitrophenyl)ethyl ester (3.78 g, 10.7 mmol); 5-[(R)-2-benzylamino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one (4.620 g, 8.975 mmol) and N,N-diisopropylethylamine (3.59 mL, 20.6 mmol) in acetonitrile (39.2 mL) was heated at 65° C. overnight. After cooling the reaction mixture to room temperature, EtOAc (20 mL) was added and this mixture was washed with brine (20 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-30% EtOAc in hexanes) to give the title compound (3.0 g, 50% yield) as a yellow oil.

reactant | 4-nitrobenzenesulfonic acid 2-(4-nitrophenyl)ethyl ester | 10.7 mmol, 3.78 g | [N+](=O)([O-])C1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H12N2O7S
reactant | 5-[(R)-2-benzylamino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | 8.975 mmol, 4.620 g | C(C1=CC=CC=C1)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C31H38N2O3Si
reactant | N,N-diisopropylethylamine | 20.6 mmol, 3.59 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 39.2 mL | C(C)#N | C2H3N
product | 5-[(R)-2-{Benzyl-[2-(4-nitrophenyl)ethyl]amino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | 3.0 g, 50% yield | C(C1=CC=CC=C1)N(C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C39H45N3O5Si
